US07238716B2
To a mixture of [2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]methanol (1.47 g), triethylamine (760 mg) and ethyl acetate (150 mL) was dropwise added methanesulfonyl chloride (860 mg) under ice-cooling and the mixture was stirred at room temperature or 2 hrs. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated to give an oil. To a mixture of this oil and dimethyl sulfoxide (50 mL) was added an aqueous solution (5 mL) of sodium cyanide (280 mg) at room temperature and the mixture was stirred at room temperature for 12 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give crystals (1.40 g, 68%) of 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals (1.07 g, 71%). melting point: 110-111° C.

reactant | [2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]methanol | 1.47 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=NC=CC=C1CO | C21H19N3O5
reactant | triethylamine | 760 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 860 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium cyanide | 5 mL, 280 mg | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]acetonitrile | 1.40 g, 68% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=NC=CC=C1CC#N | C22H18N4O4
